US09403782B2
7-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride:
To a solution of tert-butyl 7-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (1.4 g, 3.7 mmol) in DCM (3 mL) was added 4.0M HCl in dioxane (4.6 mL, 18.56 mmol) and stirred at rt for 3 h, Diethylether (200 mL) was then added and the mixture was stirred at rt for 30 min and then filtered and washed with diethylether and dried to give the title compound (1.3 grams).

reactant | tert-butyl 7-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 3.7 mmol, 1.4 g | FC(C1=CC=C(C=C1)C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)(F)F | C21H22F3NO2
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 18.56 mmol, 4.6 mL | O1CCOCC1 | C4H8O2
reactant | Diethylether | 200 mL | C(C)OCC | C4H10O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 7-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.3 grams | Cl.FC(C1=CC=C(C=C1)C1=CC=C2CCNCC2=C1)(F)F | InChI=1S/C16H14F3N.ClH/c17-16(18,19)15-5-3-11(4-6-15)13-2-1-12-7-8-20-10-14(12)9-13;/h1-6,9,20H,7-8,10H2;1H
